US07282588B2
4-[3-(4-nitrophenyl)-1-ethyl-1H-pyrazol-4-yl]-2-(3-formylphenyl)-1-phenylsulfonyl-1H-pyrrolo[2,3-b]pyridine
In a sealed pressure tube was added 4-bromo-2-(3-formylphenyl)-1-phenylsulfonyl-1H-pyrrolo[2,3-b]pyridine (1.6 mmol), 3-(4-nitrophenyl)-1-ethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (1.7 mmol), N,N-dimethylformamide (15 mL), aqueous saturated sodium bicarbonate (4 mL) and tetrakis(triphenylphosphine)palladium(0) (0.09 mmol). The reaction was purged with nitrogen, capped, and stirred at 100° C. for 8 h. After cooling to room temperature, the reaction was concentrated under vacuum, taken up in ethyl acetate, washed with water, brine, dried over sodium sulfate, filtered, and evaporated to dryness under vacuum. Purification by silica gel flash chromatography (5-10% ethyl acetate/methylene chloride) gave the title compound as a yellow solid (81%). ESMS [M+H]+: 578.3

reactant | 4-bromo-2-(3-formylphenyl)-1-phenylsulfonyl-1H-pyrrolo[2,3-b]pyridine | 1.6 mmol | BrC1=C2C(=NC=C1)N(C(=C2)C2=CC(=CC=C2)C=O)S(=O)(=O)C2=CC=CC=C2 | C20H13BrN2O3S
reactant | 3-(4-nitrophenyl)-1-ethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 1.7 mmol | [N+](=O)([O-])C1=CC=C(C=C1)C1=NN(C=C1B1OC(C(O1)(C)C)(C)C)CC | C17H22BN3O4
reactant | sodium bicarbonate | 4 mL | C([O-])(O)=O.[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.09 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 4-[3-(4-nitrophenyl)-1-ethyl-1H-pyrazol-4-yl]-2-(3-formylphenyl)-1-phenylsulfonyl-1H-pyrrolo[2,3-b]pyridine | 81% | [N+](=O)([O-])C1=CC=C(C=C1)C1=NN(C=C1C1=C2C(=NC=C1)N(C(=C2)C2=CC(=CC=C2)C=O)S(=O)(=O)C2=CC=CC=C2)CC | C31H23N5O5S
